US06200963B1
7-(4,6-Dichloro-[1,3,5]-triazin-2-ylamino)-4-hydroxy-3-(4-methoxy-phenylazo)-napthalene-2-sulfonic Acid Isopropyl Ester
7-Amino-4-hydroxy-3-(4-methoxy-phenylazo)-napthalene-2-sulfonic acid isopropyl ester Example 6, 10 g, 24 mmol) was suspended in acetone (120 mL) and cyanuric chloride (6.65 g, 36 mmol) was added. Saturated sodium bicarbonate (3 mL) was then added to the suspension. After 3 h, the reaction mixture was filtered, to provide the title compound (11.1 g, 19.7 mmol, 82%) as a red solid: NMR (DMSO-d6): δ 16.30 (s, 1H), 11.86 (s, 1H), 8.25 (d, J=9 Hz, 1H), 8.08 (s, 1H), 7.96 (d, J=9 Hz, 1H), 7.87 (s, 1H), 7.76 (d, J=9 Hz, 2H), 7.15 (d, J=9 Hz, 2H), 4.61 (m, 1H), 3.92 (s, 3H), 1.31 (d, J=3 Hz, 6H); MS (° FAB): 2 chlorine isotope pattern, [M+Na+] 585, [M+H+] 563; Anal. Calc. for C23H20Cl2N6O5S: C, 49.03, H, 3.58, N, 14.92. Found: C, 47.66, H, 3.29, N, 14.31.

reactant | 7-Amino-4-hydroxy-3-(4-methoxy-phenylazo)-napthalene-2-sulfonic acid isopropyl ester | C(C)(C)OS(=O)(=O)C1=CC2=CC(=CC=C2C(=C1N=NC1=CC=C(C=C1)OC)O)N | C20H21N3O5S
reactant | cyanuric chloride | 36 mmol, 6.65 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | sodium bicarbonate | 3 mL | C([O-])(O)=O.[Na+]
solvent | acetone | 120 mL | CC(=O)C | C3H6O
product | 7-(4,6-Dichloro-[1,3,5]-triazin-2-ylamino)-4-hydroxy-3-(4-methoxy-phenylazo)-napthalene-2-sulfonic Acid Isopropyl Ester | 19.7 mmol, 11.1 g, 82% | C(C)(C)OS(=O)(=O)C1=CC2=CC(=CC=C2C(=C1N=NC1=CC=C(C=C1)OC)O)NC1=NC(=NC(=N1)Cl)Cl | C23H20Cl2N6O5S
